US07816354B2
[2-Bromo-1-(3-bromo-phenyl)-ethoxy]-trimethyl-silane
To a solution of 2-Bromo-1-(3-bromo-phenyl)-ethanol (4.72 g, 16.9 mmol), imidazole (5.75 g, 84.5 mmol) and dimethylaminopyridine (1.03 g, 8.45 mmol) in DMF at 0° C. was added Chloro-trimethyl-silane (4.56 mL, 3.90 mmol) dropwise. Stirring continued at 0° C. for 2 hours and was then warmed to RT. The mixture was diluted with saturated sodium bicarbonate and extracted with ethyl acetate. The organics were washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The title compound was isolated as a yellow oil (5.85 g, quantitative). 1H NMR (300 MHz, CDCl3): 7.52 (s, 1H), 7.44 (d, 1H), 7.28-7.23 (m, 2H), 4.83 (t, 1H), 3.43 (d, 2H) 0.109 (s, 9H).

reactant | 2-Bromo-1-(3-bromo-phenyl)-ethanol | 16.9 mmol, 4.72 g | BrCC(O)C1=CC(=CC=C1)Br | C8H8Br2O
reactant | imidazole | 84.5 mmol, 5.75 g | N1C=NC=C1 | C3H4N2
reactant | dimethylaminopyridine | 8.45 mmol, 1.03 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Chloro-trimethyl-silane | 3.90 mmol, 4.56 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | DMF | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | [2-Bromo-1-(3-bromo-phenyl)-ethoxy]-trimethyl-silane | BrCC(O[Si](C)(C)C)C1=CC(=CC=C1)Br | C11H16Br2OSi
